US05068231
N-Ethyl-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide
To a stirred and chilled (15°-20° C.) solution of 0.024 mole of 3-[3-(trifluoromethyl)phenoxy]azetidine in 50 ml of dry benzene was added dropwise 1.99 g (0.028 mole) of ethyl isocyanate. The reaction mixture was stirred at room temperature overnight and was diluted with 50 ml of methylene chloride. The solution was washed with 5% sodium hydroxide (2×50 ml), water (50 ml), saturated sodium chloride (25 ml), dried over sodium hydroxide, and concentrated in vacuo. The residue (9.6 g) was twice recrystallized from ethyl acetate-isopropyl ether to give 5.4 g or a white solid, m.p. 125°-126° C.

reactant | 3-[3-(trifluoromethyl)phenoxy]azetidine | 0.024 mole | FC(C=1C=C(OC2CNC2)C=CC1)(F)F | C10H10F3NO
reactant | ethyl isocyanate | 0.028 mole, 1.99 g | C(C)N=C=O | C3H5NO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-Ethyl-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide | C(C)NC(=O)N1CC(C1)OC1=CC(=CC=C1)C(F)(F)F | C13H15F3N2O2
